US05650533
n-Butyllithium (2.5M in hexane, 54 ml) was added with cooling to a stirred solution of 2-(4-chloro-3-methoxyphenyl)-4,4-dimethyloxazoline (27.0 g) in tetrahydrofuran while maintaining the temperature below -40° C. The mixture was stirred at -78° C. overnight. A solution of dimethyl disulphide (26.5 g) in tetrahydrofuran was added dropwise and the mixture was stirred at -40° C. overnight. After allowing to warm to room temperature the mixture was treated with hydrochloric acid (2M). The organic layer was washed with water, dried (MgSO4) and filtered. The filtrate was evaporated to dryness and the residue was purified by dry column flash chromatography eluted with a mixture of ethyl acetate and n-hexane to give 2-[4-chloro-3-methoxy-2-(methylsulphenyl)-phenyl]-4,4-dimethyloxazoline (11.1 g) as a white solid, m.p. 50°-52° C.

reactant | n-Butyllithium | 2.5M, 54 ml | C(CCC)[Li]
reactant | 2-(4-chloro-3-methoxyphenyl)-4,4-dimethyloxazoline | 27.0 g | ClC1=C(C=C(C=C1)C=1OCC(N1)(C)C)OC | C12H14ClNO2
reactant | dimethyl disulphide | 26.5 g | CSSC | C2H6S2
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-[4-chloro-3-methoxy-2-(methylsulphenyl)-phenyl]-4,4-dimethyloxazoline | 11.1 g | ClC1=C(C(=C(C=C1)C=1OCC(N1)(C)C)SC)OC | C13H16ClNO2S
